US05641430
Preparation of trans-4-(trans-4-(4-difluoromethoxyphenyloxymethyl)-1-silacyclohexyl)-1-n-propyl-1-silacyclohexane
The general procedure of Example 39 was repeated using 4-difluoromethoxyphenol and 4-bromomethyl-1-phenyl-1-silacyclohexyl-1-phenyl-1-n-propyl-1-silacyclohexane, thereby obtaining the intended product.

reactant | 4-difluoromethoxyphenol | FC(OC1=CC=C(C=C1)O)F | C7H6F2O2
reactant | 4-bromomethyl-1-phenyl-1-silacyclohexyl-1-phenyl-1-n-propyl-1-silacyclohexane | BrCC1CC[Si](CC1)(C1=CC=CC=C1)C1[Si](CCCC1)(CCC)C1=CC=CC=C1 | C26H37BrSi2
product | trans-4-(trans-4-(4-difluoromethoxyphenyloxymethyl)-1-silacyclohexyl)-1-n-propyl-1-silacyclohexane | FC(OC1=CC=C(C=C1)OC[C@@H]1CC[Si@H](CC1)[C@@H]1CC[Si@H](CC1)CCC)F | C21H34F2O2Si2
